US05859014
A mixture of 2,4-dioxo-5(1H,3H)-pyrimidinecarbaldehyde (1.79 g, 12.8 mmol), methanol (35 mL) and water (35 mL) was heated at reflux and then a mixture of hydroxylamine hydrochloride (905 mg, 13 mmol), potassium acetate (1.28 g, 13 mmol) and water (15 mL) was added. The mixture was cooled and the solids were collected, washed with water and recrystallized from water/methanol to give 5-hydroxyiminomethyl-2,4(1H,3H)-pyrimidinedione (1.68 g, 10.8 mmol).

reactant | 2,4-dioxo-5(1H,3H)-pyrimidinecarbaldehyde | 12.8 mmol, 1.79 g | O=C1NC=C(C(N1)=O)C=O | C5H4N2O3
reactant | methanol | 35 mL | CO | CH4O
reactant | hydroxylamine hydrochloride | 13 mmol, 905 mg | Cl.NO
reactant | potassium acetate | 13 mmol, 1.28 g | C(C)(=O)[O-].[K+]
solvent | water | 15 mL | O | H2O
solvent | water | 35 mL | O | H2O
product | 5-hydroxyiminomethyl-2,4(1H,3H)-pyrimidinedione | 10.8 mmol, 1.68 g | ON=CC=1C(NC(NC1)=O)=O | C5H5N3O3
